US06903216B2
N-Cyclohexyl-2-(quinoline-8-sulfonylamino)-benzamide
50 mg of cyclohexylamine were reacted with 87 mg of 2-(quinoline-8-sulfonylamino)-benzoyl chloride in analogy to example 1 which resulted in 59 mg of an amorphous white solid. MS (ES): 410 (M+H)+

reactant | cyclohexylamine | 50 mg | C1(CCCCC1)N | C6H13N
reactant | 2-(quinoline-8-sulfonylamino)-benzoyl chloride | 87 mg | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=C(C(=O)Cl)C=CC=C1 | C16H11ClN2O3S
product | N-Cyclohexyl-2-(quinoline-8-sulfonylamino)-benzamide | 59 mg | C1(CCCCC1)NC(C1=C(C=CC=C1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)=O | C22H23N3O3S
